US09023865B2
1-[(1R)-2-methoxy-1-phenylethyl]-3-[3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea
To the solution of (S)-1-(2-methoxy-1-phenylethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea (63.4 mg, 0.100 mmol) and trifluoroacetic acid (0.383 ml, 5.00 mmol) in Dichloromethane (2.0 ml) was added triethylsilane (17.45 mg, 0.150 mmol). The resulting mixture was allowed to stir at rt for 18 h. LC-MS showed the completion of the reaction. After concentration the residue was purified by reverse phase HPLC to provide desired product (17.3 mg, 0.028 mmol, 27.9% yield). MS ESI Calc'd for C20H21N7O2 [M+H]+ 392, found 392

reactant | (S)-1-(2-methoxy-1-phenylethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)urea | 0.100 mmol, 63.4 mg | COC[C@H](C1=CC=CC=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=2C=NN(C2)C | C39H35N7O2
reactant | trifluoroacetic acid | 5.00 mmol, 0.383 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.150 mmol, 17.45 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | Dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 1-[(1R)-2-methoxy-1-phenylethyl]-3-[3-(1-methyl-1H-pyrazol-4-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl]urea | 0.028 mmol, 17.3 mg, 27.9% yield | COC[C@@H](C1=CC=CC=C1)NC(=O)NC1=CC2=C(C=N1)C(=NN2)C=2C=NN(C2)C | C20H21N7O2
